US07763639B2
4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}PIPERIDINE
Preparation according to preparation 9: 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-pyridine (0.16 g, 0.53 mmol), methanol (10 ml), platinum oxide (0.02 g). Yield: 0.11 g. MS m/z (relative intensity, 70 eV) 311 (M+, 2), 291 (47), 164 (92), 130 (62) 69 (bp).

reactant | 4-{2-fluoro-3-[(trifluoromethyl)sulfonyl]phenyl}-pyridine | 0.53 mmol, 0.16 g | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1=CC=NC=C1 | C12H7F4NO2S
catalyst | platinum oxide | 0.02 g | [Pt]=O
solvent | methanol | 10 ml | CO | CH4O
product | 4-{2-FLUORO-3-[(TRIFLUOROMETHYL)SULFONYL]PHENYL}PIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C(F)(F)F)C1CCNCC1 | C12H13F4NO2S
